US07375113B2
To a suspension of 1-(2-benzyloxyethyl)-4-bromo-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-indazole (0.17 g) and tetrakis(triphenylphosphine)palladium (0) (12 mg) in tetrahydrofuran (2 mL) was added benzylzinc bromide (0.5 mol/L tetrahydrofuran solution, 0.8 mL), and the mixture was stirred at 60° C. under an argon atmosphere overnight. The reaction mixture was poured into 0.5 mol/L hydrochloric acid, and the resulting mixture was extracted with diethyl ether. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent:n-hexane/ethyl acetate=5/1-5/2) to give 4-benzyl-1-(2-benzyloxyethyl)-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-indazole (40 mg). This material was dissolved in ethyl acetate (3 mL). To the solution was added 10% palladium-carbon powder (20 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere for 2 hours. The insoluble material was removed by filtration, and the solvent of the filtrate was removed under reduced pressure to give 4-benzyl-1-(2-hydroxyethyl)-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-indazole (32 mg). This material was dissolved in methanol (0.5 mL)-tetrahydrofuran (0.5 mL). To the solution was added lithium hydroxide monohydrate (9 mg), and the mixture was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure, and the residue was purified by solid phase extraction on ODS (washing solvent:distilled water, eluent:methanol) to give the title compound (15 mg).

reactant | 1-(2-benzyloxyethyl)-4-bromo-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-indazole | 0.17 g | C(C1=CC=CC=C1)OCCN1N=C(C2=C(C=CC=C12)Br)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O | C42H57BrN2O11
reactant | benzylzinc bromide | 0.5 mol/L, 0.8 mL | [Br-].C(C1=CC=CC=C1)[Zn+]
reactant | hydrochloric acid | 0.5 mol/L | Cl | ClH
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 12 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-benzyl-1-(2-benzyloxyethyl)-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-indazole | 40 mg | C(C1=CC=CC=C1)C1=C2C(=NN(C2=CC=C1)CCOCC1=CC=CC=C1)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O | C49H64N2O11
